US06444685B1
1-(4-Fluoro-benzenesulfonyl)-pyrrolidine-2-carboxylic Acid
To a stirred solution of 2.06 g (6.5 mmol) of 1-(4-fluoro-benzenesulfonyl)-pyrrolidine-2-carboxylic acid isopropyl ester ( ) in 10 mL of methanol was added 2.3 mL (13 mmol) of 5N NaOH. After 2 hours, the solvent was removed in vacuo and the aqueous residue was acidified with 1N HCl and then extracted twice with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated in vacuo to afford 1.69 g of the title compound as a white solid; ; mp 145-148° C.; 1H NMR (DMSO) δ 1.56-1.63 (m, 1H), 1.78-2.05 (m, 4H), 3.13-3.21 (m, 1H), 4.10-4.15 (m, 1H), 7.42-7.50 (m, 2H), 7.88-7.95 (m, 2H), 12.75 (bs, 1H); MS (ES) m/z 271.9 (MH−); HRMS for C11H12N2FO4S: 274.0543 (MH+).

reactant | 1-(4-fluoro-benzenesulfonyl)-pyrrolidine-2-carboxylic acid isopropyl ester | 6.5 mmol, 2.06 g | C(C)(C)OC(=O)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)F | C14H18FNO4S
reactant | NaOH | 13 mmol, 5N, 2.3 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 1-(4-Fluoro-benzenesulfonyl)-pyrrolidine-2-carboxylic Acid | 1.69 g | FC1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)C(=O)O | C11H12FNO4S
